US08247436B2
3-Amino-6-(4-fluoro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide
To a stirred suspension of 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide (Ex. 1.10) (180 mg, 0.505 mmol) and 4-fluorophenylboronic acid (106 mg, 0.758 mmol) in a 2:1 mixture of toluene:EtOH (12 ml) under nitrogen was added 2M Na2CO3(aq) (1.011 ml, 2.022 mmol) followed by Pd(dppf)Cl2.CH2Cl2 adduct (41 mg, 0.051 mmol). The reaction mixture was heated using microwave radiation at 140° C. for 1 hour and then allowed to cool to RT. The mixture was diluted with EtOAc (100 ml) and washed with water (100 ml). The organic phase was separated, filtered through Celite® (filter material) dried (MgSO4) and concentrated in vacuo to yield a brown oil/solid. Purification by chromatography on silica eluting with MeOH/DCM yielded a yellow oil/solid. This was passed through a 500 mg Isolute® Si-TMT cartridge (2,4,6-trimercaptotriazine silica, pre-wetted with DCM) eluting with 30% MeOH/DCM (50 ml) to afford a yellow oil/solid. The crude product was dried in vacuo and slurried in ˜0.5 ml DCM. The resulting suspension was removed by filtration and the filtrate was evaporated to yield the title compound as a light yellow/brown foam-like solid; LC-MS Rt=5.30 mins[M+H]+ 372 (Method 10minLC_v002).

reactant | 3-amino-6-bromo-5-trifluoromethyl-pyridine-2-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide | 0.505 mmol, 180 mg | OC(CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)Br)(C)C | C11H13BrF3N3O2
reactant | 4-fluorophenylboronic acid | 0.758 mmol, 106 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Na2CO3 | 2.022 mmol, 2M, 1.011 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Si-TMT | CSC1=NC(=S)NC(=S)N1 | C4H5N3S3
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOH | 12 ml | CCO | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 0.051 mmol, 41 mg | C(Cl)Cl | CH2Cl2
product | 3-Amino-6-(4-fluoro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid (2-hydroxy-2-methyl-propyl)-amide | OC(CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)C1=CC=C(C=C1)F)(C)C | C17H17F4N3O2
